US06720320B2
Sodium hydride (16 g) was suspended in tetrahydrofuran (100 ml) and a solution of N-acetylpyrrolidone (25 g) and o -anisaldehyde (26.8 g) in tetrahydrofuran (100 ml) was added dropwise under ice-cooling. After completion of the reaction, the reaction mixture was poured into water. The mixture was acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure to give oily 3-(2′-methoxybenzylidene)-2-pyrrolidone (4.7 g). The oil was dissolved in methylene chloride (60 ml). By demethylation using boron tribromide under ice-cooling, 3-(2′-hydroxybenzylidene)-2-pyrrolidone (4.0 g) was obtained as yellow crystals. To the crystals (1.5 g) were added dimethylformamide (50 ml) and potassium carbonate (2.2 g). (S)-Glycidyl nosylate (2.3 g) was added and the mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated under reduced pressure and water was added. The mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate to give an oily compound (1.8 g). By the reaction of the oil (0.5 g) and 4-(5,6,7,8-tetrahydronaphthalen-2-yl)piperidine (0.5 g) in methanol in the same manner as in Example 307, the title compound (0.4 g) was obtained, melting point 157-159° C.

reactant | Sodium hydride | 16 g | [H-].[Na+]
reactant | N-acetylpyrrolidone | 25 g | C(C)(=O)N1C(CCC1)=O | C6H9NO2
reactant | o -anisaldehyde | 26.8 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(2′-methoxybenzylidene)-2-pyrrolidone | 4.7 g | COC1=C(C=C2C(NCC2)=O)C=CC=C1 | C12H13NO2
